US08487109B2
6-(4-Methoxy-phenylethynyl)-naphtalene-2-carbonitrile
This product was prepared from benzenesulfonic acid 6-cyano-naphthalen-2-yl ester and 1-ethynyl-4-methoxy-benzene following the general procedure for the Sonogashira cross-coupling process described above. Chromatography eluent: heptane/EtOAc 95:5; yield (140 mg, 98%); 1H NMR δ (CDCl3): 8.20 (s, 1H), 8.06 (s, 1H), 7.88 (t, J=7.81 Hz, 2H), 7.71-7.59 (dm, 2H), 6.92 (m, 2H), 3.83 (s, 3H); LCMS m/z: 283.

reactant | benzenesulfonic acid 6-cyano-naphthalen-2-yl ester | C(#N)C=1C=C2C=CC(=CC2=CC1)OS(=O)(=O)C1=CC=CC=C1 | C17H11NO3S
reactant | 1-ethynyl-4-methoxy-benzene | C(#C)C1=CC=C(C=C1)OC | C9H8O
solvent | heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 6-(4-Methoxy-phenylethynyl)-naphtalene-2-carbonitrile | COC1=CC=C(C=C1)C#CC=1C=C2C=CC(=CC2=CC1)C#N | C20H13NO
